US08476269B2
Step 2: 3-Amino-1,1,1-trifluoro-2-methylpropan-2-ol hydrochloride
Pd/C was added (1 g) to a 200 ml glass vessel. Ethanol (50 ml, dry) was added cautiously under an atmosphere of CO2. 1,1,1-Trifluoro-2-methyl-3-nitropropan-2-ol (10 g, 57.8 mmol) was dissolved in ethanol (50 ml, dry) and added to the glass vessel. The reaction mixture was put under a positive pressure of hydrogen (5 bar) at room temperature and hydrogenated for 2 days. The reaction mixture was filtered through Celite® (filter material) and washed with excess ethanol. The solvent was removed in vacuo to yield a colourless oil. The oil was dissolved in MeOH (50 ml) and treated dropwise with HCl (1M) in MeOH (30 ml). The solution was left to stir for 30 minutes and concentrated in vacuo azeotroping with MeCN to afford the title compound as a waxy white solid; 1H NMR (DMSO-d6, 400 MHz) δ 8.3 (3H, broad s), 6.9 (1H, broad), 3.0 (2H, q), 1.4 (3H, s).

reactant | 1,1,1-Trifluoro-2-methyl-3-nitropropan-2-ol | 57.8 mmol, 10 g | FC(C(C[N+](=O)[O-])(O)C)(F)F | C4H6F3NO3
reactant | hydrogen | [H][H] | H2
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | MeOH | 50 ml | CO | CH4O
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
solvent | Ethanol | 50 ml | C(C)O | C2H6O
product | 3-Amino-1,1,1-trifluoro-2-methylpropan-2-ol hydrochloride | Cl.NCC(C(F)(F)F)(O)C | InChI=1S/C4H8F3NO.ClH/c1-3(9,2-8)4(5,6)7;/h9H,2,8H2,1H3;1H
